US04138581
Using a procedure similar to that described above in Example 58A, 26 g. of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride in 300 ml. of N,N-dimethylformamide under an atmosphere of nitrogen was reacted with 16 g. of sodium methoxide and then with 14 g. of benzoyl chloride. The product was isolated as the free base, 3-hydroxy-4-(benzoyloxy)phenyl tert-butylaminomethyl ketone [20 g.; m.p. 150-165° C. (dec.) (uncorr.)], which was converted to 13 g. of its methanesulfonate, m.p. 245° C. (dec.)(uncorr.). By catalytically hydrogenating this salt, using a procedure similar to that described above in Example 30B, there is obtained 3-hydroxy-4-(benzoyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol methanesulfonate.

reactant | 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | sodium methoxide | C[O-].[Na+]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-hydroxy-4-(benzoyloxy)phenyl tert-butylaminomethyl ketone | 20 g | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C1=CC=CC=C1)=O)O | C19H21NO4
